US07683185B2
7-(4-Chloro-benzenesulfinyl)-heptanoic acid hydroxyamide (31c).
To a solution of 7-(4-chloro-benzenesulfinyl)-heptanoic acid ethyl ester (0.5 g, 1.6 mmol) in distilled THF (10 mL) containing 50% aqueous hydroxylamine (0.9 mL, 13.6 mmol) was added at 0° C. a solution of potassium hydroxide in methanol (2.5 mL, 1M, 2.5 mmol) in a dropwise manner. After stirring at 0° C. for 1 h, distilled water (10 mL) was added and the mixture was made neutral by dropwise addition of concentrated hydrochloric acid (10 M) at 0° C. The aqueous solution was extracted with ethyl acetate (2×25 mL) and the combined extracts were washed with brine (25 mL), dried over anhydrous MgSO4, filtered and evaporated to dryness. The residue was recrystallised from ethyl acetate to give the title compound (0.4 g, 83%) as a white powder, mp 103-105° C.

reactant | 7-(4-chloro-benzenesulfinyl)-heptanoic acid ethyl ester | 1.6 mmol, 0.5 g | C(C)OC(CCCCCCS(=O)C1=CC=C(C=C1)Cl)=O | C15H21ClO3S
reactant | hydroxylamine | 13.6 mmol, 0.9 mL | NO | H3NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | 2.5 mmol, 1M, 2.5 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-(4-Chloro-benzenesulfinyl)-heptanoic acid hydroxyamide | 0.4 g, 83% | ONC(CCCCCCS(=O)C1=CC=C(C=C1)Cl)=O | C13H18ClNO3S
